### PR TITLE
[Merged by Bors] - feat: local frames in a vector bundle

### PR DESCRIPTION
**Pull request by grunweg**
We define a predicate `IsLocalFrameOn`, for a collection of sections of a vector bundle to be a local frame.
We provide some basic API, such as the coefficients of a section `t` w.r.t. a local frame, or proving smoothness of `t` via proving the smoothness of its local frame coefficients.

A future PR will construct actual local frames, and use these to define the local extension of a tangent vector to a vector field near a point.

From the path towards geodesics and the Levi-Civita connection.

Co-authored-by: Patrick Massot [patrickmassot@free.fr](mailto:patrickmassot@free.fr)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 1]
```diff
@@ -0,0 +1,281 @@
...
+  {M : Type*} [TopologicalSpace M] [ChartedSpace H M] [IsManifold I 0 M]
+
+variable {F : Type*} [NormedAddCommGroup F] [NormedSpace 𝕜 F]
+  -- `F` model fiber
+  (n : WithTop ℕ∞)
+  {V : M → Type*} [TopologicalSpace (TotalSpace F V)]
+  [∀ x, AddCommGroup (V x)] [∀ x, Module 𝕜 (V x)]
+  [∀ x : M, TopologicalSpace (V x)]
+  -- not needed in this file
+  -- [∀ x, IsTopologicalAddGroup (V x)] [∀ x, ContinuousSMul 𝕜 (V x)]
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Shouldn't we nuke these then?
```suggestion
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 2]
```diff
@@ -0,0 +1,281 @@
...
+    CMDiffAt n (T% (s i)) x :=
+  (hs.contMDiffOn i).contMDiffAt <| hu.mem_nhds hx
+
+/-- Given a local frame `{s i}` on `U ∋ x`, returns the basis `{s i}` of `V x` -/
+def toBasisAt (hs : IsLocalFrameOn I F n s u) (hx : x ∈ u) : Basis ι 𝕜 (V x) :=
+  Basis.mk (hs.linearIndependent hx) (hs.generating hx)
+
+@[simp]
+lemma toBasisAt_coe (hs : IsLocalFrameOn I F n s u) (hx : x ∈ u) (i : ι) :
+    (toBasisAt hs hx) i = s i x := by
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
    toBasisAt hs hx i = s i x := by
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 3]
```diff
@@ -0,0 +1,281 @@
...
+  simpa only [toBasisAt] using Basis.mk_apply (hs.linearIndependent hx) (hs.generating hx) i
+
+open scoped Classical in
+/-- Coefficients of a section `s` of `V` w.r.t. a local frame `{s i}` on `u`.
+Outside of `u`, this returns the junk value 0. -/
+-- NB. We don't use simps here, as we prefer to have dedicated `_apply` lemmas for the separate
+-- cases.
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Up to you but I don't bother commenting situations like this:
```suggestion
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 4]
```diff
@@ -0,0 +1,281 @@
...
+def repr (hs : IsLocalFrameOn I F n s u) (i : ι) : (Π x : M, V x) →ₗ[𝕜] M → 𝕜 where
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I have never been a fan of the name `repr` in `Basis` and this is also pretty far from `Basis.repr` (which is an equivalence singling no one coord).

I'd prefer almost anything else here. What do you think of:
```suggestion
def toLin (hs : IsLocalFrameOn I F n s u) (i : ι) : (Π x : M, V x) →ₗ[𝕜] M → 𝕜 where
```
(or maybe `coeff` or `coord`)

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 5]
```diff
@@ -0,0 +1,281 @@
...
+
+@[simp]
+lemma repr_apply_of_mem (hs : IsLocalFrameOn I F n s u) (hx : x ∈ u) (t : Π x : M, V x) (i : ι) :
+    hs.repr i t x = (hs.toBasisAt hx).repr (t x) i := by
+  simp [repr, hx]
+
+-- TODO: add uniqueness of the decomposition; follows from the IsBasis property in the definition
+
+lemma repr_sum_eq [Fintype ι] (hs : IsLocalFrameOn I F n s u) (t : Π x : M,  V x) (hx : x ∈ u) :
+    t x = (∑ i, (hs.repr i t x) • (s i x)) := by
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
    t x = ∑ i, (hs.repr i t x) • (s i x) := by
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 6]
```diff
@@ -0,0 +1,281 @@
...
+  simpa [repr, hx] using (Basis.sum_repr (hs.toBasisAt hx) (t x)).symm
+
+/-- A local frame locally spans the space of sections for `V`: for each local frame `s i` on an open
+set `u` around `x`, we have `t = ∑ i, (hs.repr i t) • (s i x)` near `x`. -/
+lemma repr_spec [Fintype ι] (hs : IsLocalFrameOn I F n s u) (t : Π x : M,  V x) (hu'' : u ∈ 𝓝 x) :
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: How about:
```suggestion
lemma eventually_eq_sum_repr_smul [Fintype ι] (hs : IsLocalFrameOn I F n s u) (t : Π x : M,  V x) (hu'' : u ∈ 𝓝 x) :
```
(or even better if you agree with my comment above and pick something other than `repr`)

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 7]
```diff
@@ -0,0 +1,281 @@
...
+and define basic notions (such as the coefficients of a section w.r.t. a local frame, and
+checking the smoothness of `t` via its coefficients in a local frame).
+
+In a future PR, given a basis `b` for `F` and a local trivialisation `e` for `V`,
+we will construct a **smooth local frame** on `V` w.r.t. `e` and `b`,
+i.e. a collection of sections `sᵢ` of `V` which is smooth on `e.baseSet` such that `{sᵢ x}` is a
+basis of `V x` for each `x ∈ e.baseSet`. Any section `s` of `e` can be uniquely written as
+`s = ∑ i, f^i sᵢ` near `x`, and `s` is smooth at `x` iff the functions `f^i` are.
+
+The latter statement holds in many cases, but not for every vector bundle. In this file, we prove
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: If you're raising explicitly the failure to capture smoothness by smoothness of coefficients (IIUC), then I think you need to add a sentence saying when it can fail.

Comment (ocfnash) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I guess the key point is that `IsLocalFrame` is only really useful in finite-dimensions?

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean [hunk 8]
```diff
@@ -0,0 +1,281 @@
...
+# Local frames in a vector bundle
+
+Let `V → M` be a finite rank smooth vector bundle with standard fiber `F`.
+A family of sections `s i` of `V → M` is called a **C^k local frame** on a set `U ⊆ M` iff each
+section `s i` is `C^k` on `U`, and the section values `s i x` form a basis for each `x ∈ U`.
+We define a predicate `IsLocalFrame` for a collection of sections to be a local frame on a set,
+and define basic notions (such as the coefficients of a section w.r.t. a local frame, and
+checking the smoothness of `t` via its coefficients in a local frame).
+
+In a future PR, given a basis `b` for `F` and a local trivialisation `e` for `V`,
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]:
```suggestion
In future work, given a basis `b` for `F` and a local trivialisation `e` for `V`,
```

**Review by ocfnash — APPROVED** [review]
Thanks, just a bunch of nitpicks!

bors d+

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Indeed, that's mostly it. The subsequent sentences describe better when this holds. Do you see a way to reword this? (Otherwise, I'll think about it when I'm done with my teaching this week.)

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: Good point! I went by analogy with `Basis.repr`, but indeed `Basis.coord` is a better analogy. So, certainly `coord` would already be a better name, and perhaps `coeff` is even better. I'll think about it!

Why did you pick `toLin`? To me, that seems "type-correct", but carries little semantic information (unlike coeff or coord).

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I'll do both!

**Review by grunweg — COMMENTED** [review]
Thank you for the careful review. I'm still learning something new every time. I have some comments on your comments (and will fully address them once I'm out of my teaching cave for the week).

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: > Why did you pick `toLin`?

I think I was probably vaguely thinking of `Matrix.toLin`.

> To me, that seems "type-correct", but carries little semantic information (unlike coeff or coord).

Agreed!

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 7 above)
Comment (ocfnash) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I admit this is subjective but for me if you include the words "but not for every vector bundle" then you're obligated to include a counterexample. So I would just drop these words and say something like:
```lean
In this file, we prove the latter statement for finite-rank bundles (with coefficients in a complete field).
```

File: Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/LocalFrame.lean]: I've gone with `coeff` now

**Comment by grunweg** [comment]
Thank you for the quick and careful review!
bors merge

**Comment by bryangingechen** [comment]
Looks like there's a long line:

https://github.com/leanprover-community/mathlib4/actions/runs/18731607041/job/53429667421#step:20:7059

bors r-

**Comment by grunweg** [comment]
bors merge
